US08044062B2
A solution of ethyl 4-methyl-2-(methylthio)-6-oxo-1,6-dihydropyrimidine-5-carboxylate (60 g, 0.26 mole) and phosphorous oxychloride (POCl3, 320 mL) was heated under reflux for 4 to 5 h (monitor reaction by TLC using 30% ethylacetate and hexanes). After completion of reaction, phosphorous oxychloride was removed on a rotary evaporator. The residue was poured on to ice water and extracted with ethylacetate several times. The combined organic layers were evaporated, on a rotary evaporator, to give crude ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (65 g). This compound was used without purification.

reactant | ethyl 4-methyl-2-(methylthio)-6-oxo-1,6-dihydropyrimidine-5-carboxylate | 0.26 mole, 60 g | CC=1N=C(NC(C1C(=O)OCC)=O)SC | C9H12N2O3S
reactant | phosphorous oxychloride | 320 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 65 g | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
